US06897231B2
G. 1-(5-(2H-1,2,3,4-Tetrazol-5-yl)(1H-indazol-3-yl))-2-methoxybenzene
To a solution of 3-(2-methoxyphenyl)-1H-indazole-5-carbonitrile in toluene (20 mL) was added azidotributyl tin (0.716 g, 0.591 mL, 2.156 mmol). The reaction mixture was heated to reflux temperature for 18 hours. The solvent was removed under reduced pressure with no heat. The resulting oil was dissolved in tetrahydrofuran (2 mL) and toluene was added (20 mL). Hydrogen chloride was bubbled through the solution for 15 min, which resulted in the precipitation of a white solid. The product was collected by filtration after cooling to 0° C. and was washed with 5 mL portions of toluene. The impure solid was dissolved in 5 mL of aqueous sodium hydroxide (2.0 N) and the aqueous phase was washed with ethyl acetate. The product was precipitated out of the aqueous phase by bubbling hydrogen chloride gas. The solid was collected by filtration and washed with small portions of water. The product was isolated as an off-white solid after drying in a vacuum oven (0.110 g, 0.377 mmol, 20% over 2 steps): 1H NMR (DMSO-d6) δ 13.5 (br s, 1H), 8.4 (s, 1H), 8.0 (d, 1H), 7.7 (d, 1H), 7.5 (d, 1H), 7.4 (t, 1H), 7.2 (d, 1H), 7.1 (t, 1H), 3.8 (s, 3H); ES-MS (m/z) 293 [M+1]+.

reactant | 3-(2-methoxyphenyl)-1H-indazole-5-carbonitrile | COC1=C(C=CC=C1)C1=NNC2=CC=C(C=C12)C#N | C15H11N3O
reactant | azidotributyl tin | 2.156 mmol, 0.591 mL, 0.716 g | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(5-(2H-1,2,3,4-Tetrazol-5-yl)(1H-indazol-3-yl))-2-methoxybenzene | N=1NN=NC1C=1C=C2C(=NNC2=CC1)C1=C(C=CC=C1)OC | C15H12N6O
